US07820683B2
(2R)-2-[(4-{[1-(1,3-thiazol-4-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanamide
Using the same procedure as in Example 5, methyl (2R)-2-[(4-{[1-(1,3-thiazol-4-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanoate (200 mg, 0.43 mmol) was reacted with ammonia to give the title compound as a white solid (170 mg, 88%); NMR Spectrum 1.67 (d, 3H), 5.14 (q, 1H), 5.79 (s, 2H), 7.02 (d, 1H), 7.36 (d, 1H), 7.50 (s, 1H), 7.56 (br s, 1H), 7.79-7.72 (m, 3H), 7.90 (br s, 1H), 8.10 (s, 1H), 8.51 (m, 2H), 9.04 (s, 1H), 10.80 (br s, 1H); Mass spectrum MH+ 446.

reactant | methyl (2R)-2-[(4-{[1-(1,3-thiazol-4-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanoate | 0.43 mmol, 200 mg | S1C=NC(=C1)CN1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC=CC(=C12)O[C@@H](C(=O)OC)C | C23H20N6O3S
reactant | ammonia | N | H3N
product | (2R)-2-[(4-{[1-(1,3-thiazol-4-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanamide | 170 mg, 88% | S1C=NC(=C1)CN1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC=CC(=C12)O[C@@H](C(=O)N)C | C22H19N7O2S
